Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Reglan / Methotrexate / Dronabinol / chlorhexidine / vancomycin 
/ levofloxacin / Betadine / Feraheme
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
Removal of ___ catheter with replacement by silicone 
catheter under general anesthesia (___).
Replacement of J tube with GJ tube (___).  
Removal of left catheter and insertion of new tunneled catheter 
on the right (___)
Replacement of GJ tube with J tube (___)

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of left 
Hickman for home TPN, eosinophilic gastrointestinal disease, 
gastroperesis, and postural orthostatic tachycardic syndrome who 
presents with a 7 day history of headache and malaise and a one 
day history of fevers to Tmax 101. 

The patient has a ___ line and is on 12 hour home TPN at 
baseline. She has not had any significant PO intake since ___, 
and has failed multiple feeding trials over the last ___ years. 
She suffers from frequent bacteremia, reportedly every ___ 
months in the past ___ years, requiring frequent changes of her 
central access and courses of IV antibiotics. She has also had 
___ fungemia in the past. She was bacteremic with a reported 
pseudomonas infection earlier this year, and had her central 
line replaced in ___ by ___ at ___.

Over the last week the patient has felt increasingly fatigued, 
with a headache, nausea, and abdominal pain above her baseline. 
She monitored her temperature frequently, and was not febrile 
until today, with a fever of 101. Last night she awoke with 
chills, and her headache was worse this morning. She presented 
to the ___ ED.

In the ED, initial vitals were:  T 98.3, HR 145, BP 125/78, RR 
18, O2 100%RA.  Spiked fever to 102.6 in the ED. Labs notable 
for WBC 9.6, 93.3% SNs, lactate 2.4. Blood cultures x3 were 
drawn.

Imaging notable for chest-xray without infiltrate.

Patient was given 3L NS, zosyn and clindamycin, Tylenol 1g, and 
promethazine. Decision was made to admit for possible systemic 
infection.
 
On the floor, she complains of mild abdominal pain, nausea, and 
headache. 

 
Past Medical History:
--Eosinophilic gastrointestinal disease - with involvement of 
esophagus, stomach and small intestine
--Has ___ cath for TPN, G-J tube 
--Peptic ulcer disease  
--Postural orthostatic tachycardia syndrome 
--Iron deficiency anemia 
 
 
Social History:
___
Family History:
--No known FHx of GI malignancy or autoimmune processes. Has an 
identical twin sister who is healthy. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T: 98.3 BP: 143/93 P: 93 RR: 18 SPO2: 98 RA 
Gen: awake, alert, no acute distress   
HEENT: Sclera anicteric, MMM, oropharynx clear, no meningeal 
signs  
Neck: supple, JVP not elevated
Chest: Hickman catheter in left chest, with no redness or pus 
around the insertion site.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, with mild epigastric tenderness. 
Bowel sounds present, no rebound tenderness or guarding. G and J 
tubes present, fentanyl patch in the LLQ. No erythema 
surrounding ports.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes noted.  

DISCHARGE PHYSICAL EXAM
VS: P: 98.3 BP: 104/60 P: 94 RR: 20 SPO2: 99%RA
GENERAL: alert, interactive, no acute distress
HEENT: sclerae anicteric, MMM. Neck supple
CHEST: tunneled line on right upper chest. No erythema or pus 
surrounding insertion site. Bandage on left upper chest covering 
site of previous tunneled line, without erythema or pus. 
LUNGS: Clear to auscultation bilaterally
HEART: Normal S1, S2 no murmurs/rubs/gallops 
Abdomen: soft, non-distended, mild epigastric tenderness. Bowel 
sounds present, no epigastric rebound tenderness no guarding. G 
and J tubes present without surrounding erythema. J tube 
surrounded by a bandage. Fentanyl patch in the RUQ.
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION
==============================================
___ 03:38PM BLOOD WBC-9.6 RBC-4.82 Hgb-14.0 Hct-39.1 
MCV-81* MCH-29.0 MCHC-35.8 RDW-13.6 RDWSD-39.6 Plt ___
___ 03:38PM BLOOD Neuts-93.3* Lymphs-2.4* Monos-3.1* 
Eos-0.3* Baso-0.5 Im ___ AbsNeut-8.92*# AbsLymp-0.23* 
AbsMono-0.30 AbsEos-0.03* AbsBaso-0.05
___ 03:38PM BLOOD Glucose-117* UreaN-12 Creat-0.8 Na-138 
K-4.3 Cl-104 HCO3-19* AnGap-19
___ 03:38PM BLOOD ALT-19 AST-35 AlkPhos-78 TotBili-0.5
___ 03:38PM BLOOD Lipase-24
___ 03:38PM BLOOD Albumin-4.3 Calcium-9.4 Phos-2.8 Mg-1.6
___ 05:50AM BLOOD 25VitD-21*
___ 03:54PM BLOOD Lactate-2.4*
___ 10:32AM URINE Color-Straw Appear-Clear Sp ___
___ 10:32AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 10:32AM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-3

IMAGING
================================================
CXR (___): No evidence pneumonia.

Abdominal X-Ray (___): The tip of the JG tube terminates in 
the jejunum. 

MICROBIOLOGY
================================================
ENTEROBACTER ASBURIAE. This organism may develop resistance to 
third generation cephalosporins during prolonged therapy. 
Therefore, isolates that are initially susceptible may become 
resistant within three to four days after initiation of therapy. 
 For serious infections,repeat culture and sensitivity testing 
may therefore be warranted if third generation cephalosporins 
were used. 

SENSITIVITIES: MIC expressed in MCG/ML                   
_________________________________________________________
                             ENTEROBACTER ASBURIAE
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

LABORATORY STUDIES ON DISCHARGE
================================================
___ 05:40AM BLOOD WBC-5.0 RBC-3.61* Hgb-10.3* Hct-30.8* 
MCV-85 MCH-28.5 MCHC-33.4 RDW-14.4 RDWSD-43.2 Plt ___
___ 05:40AM BLOOD Glucose-140* UreaN-17 Creat-0.4 Na-135 
K-3.9 Cl-103 HCO3-26 AnGap-10
___ 04:57AM BLOOD Triglyc-250*
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of left Hickman 
for home TPN, eosinophilic gastrointestinal disease, 
gastroperesis, and postural orthostatic tachycardic syndrome who 
presents with Enterobacter asburiae bacteremia and ___ 
parapsilosis fungemia.

# Enterobacter asburiae bacteremia: the patient presented with 
enterobacter asburiae bacteremia, tachycardia, and fever, 
meeting SIRS criteria for sepsis. Her only positive blood 
cultures were in ___ bottles on the day of admission, ___. 
Given this, the most likely source was GI seeding, with low 
suspicion for port infection. She was initially treated with 
daptomycin/Zosyn, which was narrowed to Zosyn 4.5g q8hr on ___, 
and further to ceftriaxone 2g Q24H on ___. As some enterobacter 
species can become resistant to ___ generation cephalosporins, 
she was switched to cefepime 2g Q12H on ___. On ___ she had 
her Hickman line exchanged for a silicone line with ethanol 
lock. This line became displaced, and was replaced with a right 
tunneled silicone line on ___. She was discharged on ertapenem 
1g IV Q24H, and will complete a 2 week course (last day ___. 

# ___ parapsilosis fungemia: Patient grew ___ 
parapsilosis in blood cultures drawn through her central line on 
___. She had no other positive fungal or Gram stains. Patient 
has had no constitutional symptoms since the night of admission. 
She was started on fluconazole 400mg IV Q24H for 2 weeks (last 
day ___.

# Nutrition: patient normally receives TPN daily, and has had no 
significant PO intake in ___ years. Patient's home TPN was 
initially held due to concerns of port infection. TPN was 
restarted following catheter replacement on ___.

# J tube replacement: Patient has a G tube and J tube at 
baseline. On ___, her J tube was removed by ___ and replaced by 
a GJ tube. The event has been disclosed to the patient. ___ team 
as well as the primary team is aware.  Patient has been provided 
information to contact patient relations. Quality improvement 
has also been contacted to prevent future similar events. This 
tube was replaced with a J tube on ___.

# Eosinophilic GI disease: patient vented G tube frequently, had 
minimal PO intake.
Her home GI medications were continued. Her pain was managed 
with her home fentanyl patch and additional dilaudid 1mg 
Q4H:PRN. Her nausea was well controlled with IV promethazine. 

# Pancytopenia: patient was down in all cell lines, consistent 
with lab values from previous infections. CBC was trended daily. 

 
CHRONIC ISSUES: 
==========================
# POTS: Patient was occasionally tachycardic to the 140s.
- Home metoprolol was fractionated to 25 mg Q6H

# Peptic ulcer disease:
- Continued home pantoprazole

TRANSITIONAL ISSUES
==========================
- Patient is on 2 week ertapenem course on discharge, last day 
___
- Patient is on a 2 week fluconazole course on discharge, last 
day ___
- Patient should establish providers in the ___ area, 
including GI, primary care, and chronic pain
- monitor LFTs/triglycerides as patient is on TPN chronically
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Fentanyl Patch 25 mcg/h TD Q72H 
2. Lidocaine 5% Patch 2 PTCH TD QAM 
3. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN pain 
4. mucositis & stomatitis combo 1 10 ml oral QID:PRN mucosities 
5. vedolizumab 300 mg injection EVERY 2 WEEKS 
6. Methylnaltrexone 12 mg SUBCUT EVERY OTHER DAY 
7. BusPIRone 15 mg PO BID 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. Memantine 10 mg PO BID 
10. Pantoprazole 40 mg PO Q12H 
11. Vivonex RTF (nut.tx.impaired digest fxn,soy) ___ 
gram-kcal/mL oral OTHER 
12. Pyridostigmine Bromide Syrup 30 mg PO TID 

 
Discharge Medications:
1. Ertapenem Sodium 1 g IV DAILY Duration: 8 Days 
RX *ertapenem [Invanz] 1 gram 1 g IV daily Disp #*8 Vial 
Refills:*0
2. Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL DWELL 
DAILY 
3. Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL DWELL 
DAILY 
Not for IV use.  To be instilled into central catheter port for 
local dwell 
4. Ethanol Lock
Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL DWELL 
DAILY for 2 hours max per line
5. Ethanol Lock
Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL DWELL 
DAILY for 2 hours max per line
6. Fluconazole 400 mg IV Q24H 
RX *fluconazole in NaCl (iso-osm) 400 mg/200 mL 400 mg IV once a 
day Disp #*8 Intravenous Bag Refills:*0
7. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % 10 mL IV Daily Disp #*30 Syringe 
Refills:*0
8. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line flush 

RX *heparin lock flush (porcine) [heparin lock flush] 10 unit/mL 
2 mL IV Daily Disp #*30 Syringe Refills:*0
9. BusPIRone 15 mg PO BID 
10. Fentanyl Patch 25 mcg/h TD Q72H 
RX *fentanyl 25 mcg/hour apply to skin one patch for 72 hours 
Q72H Disp #*10 Patch Refills:*0
11. Lidocaine 5% Patch 2 PTCH TD QAM 
12. Memantine 10 mg PO BID 
13. Methylnaltrexone 12 mg SUBCUT EVERY OTHER DAY 
14. Pyridostigmine Bromide Syrup 30 mg PO TID 
15. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth Q6H:PRN Disp #*80 
Tablet Refills:*0
16. Metoprolol Succinate XL 100 mg PO DAILY 
17. mucositis & stomatitis combo 1 10 ml oral QID:PRN mucosities 

18. Pantoprazole 40 mg PO Q12H 
19. vedolizumab 300 mg injection EVERY 2 WEEKS 
20. Vivonex RTF (nut.tx.impaired digest fxn,soy) ___ 
gram-kcal/mL oral OTHER 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
================
Bacteremia 
Fungemia

Secondary Diagnosis:
====================
Eosinophilic gastrointestinal disease 
Peptic ulcer disease  
Postural orthostatic tachycardia syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure treating you. You were admitted for a fever 
and chills, and were found to have bacteria and fungus in your 
blood stream. You were treated with antibiotics and antifungal 
medications and your condition improved. Additionally, we 
removed your Hickman line and replaced it with a new silicone 
catheter on the right. We have also replaced your J tube. You 
have been discharged with continued IV antibiotics, which you 
must take until  ___. It is imperative that you 
continue to take these antibiotics, and that you followup with 
your GI team and you PCP.

Thank you for allowing us to participate in your care. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___